US08349851B2
To a suspension of (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (2.3 g) in 30% MeOH/DCM (60 mL) at 0° C. was added dropwise 4M HCl/1,4-dioxane (10 mL). After all solid material had dissolved, the mixture was concentrated under reduced pressure, and to the residue was added 30% CH3CN/H2O (80 mL) and the mixture was sonicated until all solid material had dissolved. The mixture was frozen and lyophilized overnight to afford (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol hydrochloride (100%). 1H NMR (300 MHz, DMSO-d6) δ 2.25 (s, 3H), 6.02 (s, 1H), 6.20 (s, 1H), 7.27 (t, 2H), 7.60 (qt, 2H), 7.80 (t, 1H), 8.08 (t, 1H), 8.23 (d, 1H), 8.83 (d, 1H), 12.16 (s, 1H), 14.51 (b, 1H); LC-MS (ESI) m/z 350 (M+H)+.

reactant | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 2.3 g | FC1=CC=C(C=C1)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H14FN5O
reactant | HCl 1,4-dioxane | 4M, 10 mL | Cl.O1CCOCC1
solvent | MeOH DCM | 60 mL | CO.C(Cl)Cl
product | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol hydrochloride | 100% | Cl.FC1=CC=C(C=C1)C(O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | InChI=1S/C19H16FN5O.ClH/c1-11-10-16(25-24-11)22-18-14-4-2-3-5-15(14)21-19(23-18)17(26)12-6-8-13(20)9-7-12;/h2-10,17,26H,1H3,(H2,21,22,23,24,25);1H
